US08202885B2
To a solution of 150 mg of rac-(1R*,2R*,4R*)-2-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol in 2 mL DCM and 2 mL THF were added 0.21 mL of NEt3 and 41 mg of DMAP. The reaction mixture was cooled to 0° C., 0.17 mL of pivaloyl chloride were added and it was then stirred at 65° C. for 24 h. During the next 4 days further 0.52 mL of NEt3 and 0.41 mL of pivaloyl chloride were added in small aliquots. The reaction was quenched with sat. aq. NaHCO3, extracted with DCM, dried and concentrated in vacuo. Purification by CC using DCM-MeOH (10:1) yielded 40 mg of rac-2,2-dimethyl propionic acid (1R*,2R*,4R*)-2-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester as brownish foam.

reactant | rac-(1R*,2R*,4R*)-2-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol | 150 mg | COC1=CC=CC=2NC(=NC21)CCCN(CCC2(C1C=C(C(C2)CC1)C1=CC=CC=C1)O)C | C28H35N3O2
reactant | NEt3 | 0.21 mL | CCN(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.17 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | NEt3 | 0.52 mL | CCN(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.41 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 41 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | rac-2,2-dimethyl propionic acid (1R*,2R*,4R*)-2-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester | 40 mg | COC1=CC=CC=2NC(=NC21)CCCN(CC[C@]2([C@H]1C=C([C@@H](C2)CC1)C1=CC=CC=C1)OC(C(C)(C)C)=O)C | C33H43N3O3
